US04760146
1-(3-chloropropyl)-6-phenyl-3-cyclohexane-1-carboxylic acid (4.95 g, 17.6 mmol) was dissolved in methylene chloride and stirred under N2 at ambient temperature. Oxalyl chloride (2 equiv., 4.47 g) was added and the solution was allowed to stir for 16 hrs. The solution was concentrated to vacuo to afford the corresponding acid chloride (5.18 g, 100% yield) as a light yellow mobile oil. The infrared spectrum indicated the disappearance of the carboxyl carbonyl stretch of the starting material at 1700 cm-1 and the appearance of the acid chloride carbonyl stretch at 1790 cm-1. 1-(3-Chloropropyl)-6-phenyl-3-cyclohexene-1-carbonyl chloride (11.40 g, 38.6 mmol) was dissolved in methylene chloride (100 ml) into which ammonia is bubbled into the solution for 15 mins. via a gas dispersion tube. After stirring for 16 hrs. water was added to the solution and the organic fraction was dried over MgSO4, filtered and concentrated in vacuo to afford 9.05 g (85% yield) of 1-(3-chloro-propyl)-6-phenyl-3-cyclohexene-1-carboxamide as a viscous oil.

reactant | 1-(3-Chloropropyl)-6-phenyl-3-cyclohexene-1-carbonyl chloride | 38.6 mmol, 11.40 g | ClCCCC1(CC=CCC1C1=CC=CC=C1)C(=O)Cl | C16H18Cl2O
reactant | ammonia | N | H3N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-chloro-propyl)-6-phenyl-3-cyclohexene-1-carboxamide | 9.05 g, 85% yield | ClCCCC1(CC=CCC1C1=CC=CC=C1)C(=O)N | C16H20ClNO
